### PR TITLE
feat: default `let rec` and `where` decls to private under the module system

### PR DESCRIPTION
**Pull request by Kha**
This PR addresses an outstanding feature in the module system to automatically mark `let rec` and `where` helper declarations as private unless they are defined in a public context such as under `@[expose]`.

### CODE REVIEW

**Comment by ghost** [comment]
Mathlib CI status ([docs](https://leanprover-community.github.io/contribute/tags_and_branches.html)):
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 416a8372cd14657af643224641cf83c1e33f6f4b --onto 5b18ea15457255a9db8a3c92fde7d55003f0cff9`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-08-01 16:59:04)
- ✅ Mathlib branch [lean-pr-testing-9666](https://github.com/leanprover-community/mathlib4-nightly-testing/compare/nightly-testing...lean-pr-testing-9666) has successfully built against this PR. (2025-08-05 11:45:23) [View Log](https://github.com/leanprover-community/mathlib4-nightly-testing/actions/runs/16747987797)

File: src/Lean/Elab/PreDefinition/WF/Eqns.lean [hunk 1]
```diff
@@ -67,7 +67,7 @@ def copyPrivateUnfoldTheorem : GetUnfoldEqnFn := fun declName => do
   withTraceNode `ReservedNameAction (pure m!"{exceptOptionEmoji ·} copyPrivateUnfoldTheorem running for {declName}") do
   let name := mkEqLikeNameFor (← getEnv) declName unfoldThmSuffix
   if let some mod ← findModuleOf? declName then
-    let unfoldName' := mkPrivateNameCore mod (.str declName unfoldThmSuffix)
+    let unfoldName' := mkPrivateNameCore mod (.str (privateToUserName declName) unfoldThmSuffix)
```
Comment (Kha) [inline src/Lean/Elab/PreDefinition/WF/Eqns.lean:70]: @nomeata FYI

File: src/Init/Data/List/ToArray.lean [hunk 2]
```diff
@@ -222,11 +222,11 @@ theorem forM_toArray [Monad m] (l : List α) (f : α → m PUnit) :
     congr
     ext1 (_|_) <;> simp [ih]
 
-theorem findSomeRevM?_find_toArray [Monad m] [LawfulMonad m] (f : α → m (Option β)) (l : List α)
+private theorem findSomeRevM?_find_toArray [Monad m] [LawfulMonad m] (f : α → m (Option β)) (l : List α)
     (i : Nat) (h) :
     findSomeRevM?.find f l.toArray i h = (l.take i).reverse.findSomeM? f := by
   induction i generalizing l with
-  | zero => simp [Array.findSomeRevM?.find.eq_def]
+  | zero => simp [Array.findSomeRevM?.find]
```
Comment (Kha) [inline src/Init/Data/List/ToArray.lean:229]: @nomeata FYI, there seems to be an additional issue when referencing `eq_def` of a privately imported def directly. But since that is a pretty fringe case, I think it's P-low

Comment (Kha) [reply src/Init/Data/List/ToArray.lean:229]: (likely can be reproduced with a module/non-module mix as well)
